US07022739B2
2nd Stage: 2-(4-methoxyphenyl)-cyclohexanone
146 g (0.71 mole) of 2-(4-methoxyphenyl)-cyclohexanol from the 1st stage were dissolved in 600 ml of diethyl ether. A solution consisting of 69.9 g (0.23 mole) of sodium dichromate (as dihydrate), 355 ml of water and 53.2 ml of conc. sulfuric acid was added dropwise while stirring vigorously and cooling in an ice bath so that the internal temperature did not exceed 10° C. After completion of the addition the reaction mixture was stirred overnight at room temperature. After separating the phases the aqueous phase was then extracted twice with 200 ml of diethyl ether. The combined organic phases were washed twice with 200 ml of saturated sodium hydrogen carbonate solution and dried over sodium sulfate. After removing the solvent by distillation the remaining oil was distilled and the fraction passing over at 128–134° C./0.05 bar was collected. After crystallisation from n-hexane 130 g of colourless crystals with a melting point of 90° C. were obtained (90% of theory).

reactant | 2-(4-methoxyphenyl)-cyclohexanol | 0.71 mole, 146 g | COC1=CC=C(C=C1)C1C(CCCC1)O | C13H18O2
reactant | sodium dichromate | 0.23 mole, 69.9 g | [Cr](=O)(=O)([O-])O[Cr](=O)(=O)[O-].[Na+].[Na+]
reactant | water | 355 ml | O | H2O
reactant | sulfuric acid | 53.2 ml | S(O)(O)(=O)=O | H2O4S
solvent | diethyl ether | 600 ml | C(C)OCC | C4H10O
product | 2-(4-methoxyphenyl)-cyclohexanone | COC1=CC=C(C=C1)C1C(CCCC1)=O | C13H16O2
